US08975254B2
a) (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile hydrochloride
The Mitsunobu reaction was conducted as described in Example 3(c) using 2-chloro-4-(1H-pyrazol-5-yl)benzonitrile (0.60 g, 2.95 mmol) and (R)-tert-butyl 1-hydroxybutan-2-ylcarbamate (0.61 g, 3.24 mmol) as starting materials. 0.249 g (31%) of the title compound was obtained after workup. 1H-NMR (400 MHz; d6-DMSO): δ 0.91 (t, 3H), 1.22 (d, 3H), 3.33 (broad s, NH2HCl overlapping with water) 3.99 (dd, 1H), 4.12 (dd, 1H), 4.44-4.86 (m, 1H), 6.97 (d, 1H), 7.86 (d, 1H), 7.92-7.99 (m, 2H), 8.11 (d, 1H).

reactant | 2-chloro-4-(1H-pyrazol-5-yl)benzonitrile | 2.95 mmol, 0.60 g | ClC1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6ClN3
reactant | (R)-tert-butyl 1-hydroxybutan-2-ylcarbamate | 3.24 mmol, 0.61 g | OC[C@@H](CC)NC(OC(C)(C)C)=O | C9H19NO3
product | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile hydrochloride | 0.249 g, 31% | Cl.N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)CC | InChI=1S/C14H15ClN4.ClH/c1-2-12(17)9-19-6-5-14(18-19)10-3-4-11(8-16)13(15)7-10;/h3-7,12H,2,9,17H2,1H3;1H/t12-;/m1./s1
